US07259157B2
Preparation of ethyl 2-amino-1,3-thiazole-5-carboxylate
To a mixture of B-ethoxyacrylic acid ethyl ester (2.0 g, 13.9 mmol) in 1:1 dioxane/water (15 mL) at −10°0 C. was added NBS (2.72 g, 15.3 mmol). Thiourea (1.06 g, 13.9 mmol) was added and the mixture was heated to 80° C. and stirred for 1.5 h. The reaction mixture was cooled to 0° C. and 5 mL of saturated ammonium hydroxide was added. A precipitate formed in 15 min. The solid was filtered, washed with water and dried under vacuum, yielding a light orange solid.

reactant | NBS | 15.3 mmol, 2.72 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | Thiourea | 13.9 mmol, 1.06 g | NC(=S)N | CH4N2S
reactant | ammonium hydroxide | 5 mL | [OH-].[NH4+]
reactant | dioxane water | 15 mL | O1CCOCC1.O
product | ethyl 2-amino-1,3-thiazole-5-carboxylate | NC=1SC(=CN1)C(=O)OCC | C6H8N2O2S
